US09428512B2
Intermediate 16: 5-((Benzyloxy)methyl)-2-butyl-7-(5-(4-isopropylpiperazin-1-yl)pent-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a degassed solution of 5-((benzyloxy)methyl)-2-butyl-7-iodo-5H-pyrrolo[3,2-d]pyrimidin-4-amine (223 mg, 0.511 mmol) in anhydrous N,N-dimethylformamide (3.5 mL) under a nitrogen atmosphere at room temperature was added copper(I) iodide (19 mg, 0.10 mmol), bis(triphenylphosphine)palladium(II)dichloride (40 mg, 0.057 mmol) and finally triethylamine (0.128 mL, 0.920 mmol). The mixture was stirred at room temperature under a nitrogen atmosphere for 10 minutes and then a solution of 1-(1-methylethyl)-4-(4-pentyn-1-yl)piperazine (159 mg, 0.818 mmol) in anhydrous degassed N,N-dimethylformamide (0.5 mL) was added. The reaction mixture was stirred at 55° C. for 40 minutes. A solution of 1-(1-methylethyl)-4-(4-pentyn-1-yl)piperazine 60 mg (0.309 mmol) in anhydrous degassed N,N-dimethylformamide (0.5 mL) was added. The reaction mixture was stirred at 55° C. for 30 minutes. The reaction was evaporated in vacuo to yield a dark yellow oil. The oil was partitioned between water and dichloromethane. The organic layer was separated and the aqueous back extracted with dichloromethane. The combined organic extracts were passed through a hydrophobic frit and evaporated in-vacuo to yield a dark yellow oil. The oil was dissolved in MeOH:DMSO (1:1) (4×1 mL) and purified by MDAP (Method B) Appropriate fractions were combined and evaporated in vacuo to yield the title compound as a yellow oil (80 mg).

reactant | 5-((benzyloxy)methyl)-2-butyl-7-iodo-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 0.511 mmol, 223 mg | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)N)CCCC)I | C18H21IN4O
reactant | triethylamine | 0.920 mmol, 0.128 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(1-methylethyl)-4-(4-pentyn-1-yl)piperazine | 0.818 mmol, 159 mg | CC(C)N1CCN(CC1)CCCC#C | C12H22N2
reactant | 1-(1-methylethyl)-4-(4-pentyn-1-yl)piperazine | 0.309 mmol, 60 mg | CC(C)N1CCN(CC1)CCCC#C | C12H22N2
solvent | N,N-dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
catalyst | copper(I) iodide | 0.10 mmol, 19 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.057 mmol, 40 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 5-((Benzyloxy)methyl)-2-butyl-7-(5-(4-isopropylpiperazin-1-yl)pent-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 80 mg | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)N)CCCC)C#CCCCN2CCN(CC2)C(C)C | C30H42N6O
